reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[O+:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]=[N-:6])([H:7])[H:9].[H:8][H:10],79.15133561173329
[C:1](=[C:2](/[N:3]=[C:4](\[O:5][H:11])[O:6][C:7]([H:14])([H:15])[H:16])[H:12])([H:8])[H:10].[H:9][H:13]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.26292495015551
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:6]([C:5](=[O:7])[H:11])([H:12])[H:14])([H:8])([H:9])[H:10].[H:13][H:15],111.14321944431299
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9],94.2251867813228
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]([O:4][H:8])([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13],116.58442460027
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C@:3]([C:4]([H:14])([H:15])[H:16])([H:13])[N:5]([H:17])[C@@:6]1([O:7][H:11])[H:18])([H:8])([H:9])[H:10],98.2568677334659
[C:1]([C:2](=[O:3])[C:6](=[C:5]=[C:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],65.77295851052418
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([C:5][H:13])([O:6][H:12])[C:7]1([H:14])[H:15])[H:8],73.0040755502694
[C:1]([C:2]([C@@:3]1([H:12])[O:4][C@:5]1([O:6][H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],39.3175263561634
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]([C:2][N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],73.18214667579691
[N:1]([C:2]([O:3][C:5]#[N:6])=[C:4]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],41.78376321636192
[C:1](/[C:2](=[C:3](\[O:4][H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:11])[H:17])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.676403029123392
[O-:1][C:2](=[C:3]=[O+:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],26.621196205331714
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[C:5](/[C:4]([H:11])([H:12])[H:13])[C:6][H:14])[H:10])([H:7])([H:8])[H:9],75.9533582994823
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C-:2]=[O+:3][C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],108.380604637934
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:7])([H:8])[H:9].[C:5]=[N:6][H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],41.6117414911016
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[C:6]([H:16])[H:18])[O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.10051007342399
[C:1]([O+:3]=[C-:2][N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],50.3770100437562
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:12],93.6431994507875
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[N:2]/[C:3]([N:4]([H:10])[H:11])=[C:5](\[O:6][H:9])[H:12])([H:7])[H:8],47.8746701616296
[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.76067346895482
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[N:3]=[C:7](/[N:6]1[C:4]([H:13])=[C:5]1[H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],112.843160367092
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([N+:4](=[N-:3])[C:6](=[O:5])[H:9])[H:10])[H:8],92.1772995291703
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C@@:3]([C:5]#[N:6])([H:11])[O:4]1)([H:7])([H:8])[H:9],85.15572329534591
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:16])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],40.572779262980504
